US07115750B1
6-[4-(Benzoylamino)benzyloxy]-2-(2-piperidinoethyl)tetralin
Sodium hydride (60% oily, 85 mg) was added to DMF solution of 6-hydroxy-2-(2-piperidinoethyl)tetralin (500 mg) at room temperature, which was stirred for 1 hour. N-[4-(bromomethyl)phenyl]benzamide (670 mg) was added to the reaction mixture at room temperature, which was stirred for 1 hour. Water was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using alumina column chromatography (development solvent: THF), and recrystallized (ethyl acetate) to give the titled compound (200 mg).

reactant | Sodium hydride | 85 mg | [H-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 6-hydroxy-2-(2-piperidinoethyl)tetralin | 500 mg | OC=1C=C2CCC(CC2=CC1)CCN1CCCCC1 | C17H25NO
reactant | N-[4-(bromomethyl)phenyl]benzamide | 670 mg | BrCC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C14H12BrNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6-[4-(Benzoylamino)benzyloxy]-2-(2-piperidinoethyl)tetralin | 200 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(COC=2C=C3CCC(CC3=CC2)CCN2CCCCC2)C=C1 | C31H36N2O2
